.title delay__IN__hl__OUT__lh__ACQ_1

* state: 1
* state_coverage: 1

* Deck file generated by PrimeLib T-2022.03-SP1 build date: Apr 12, 2022 13:01:04. (SMSC-2)
* PrimeLib path: /proj/cad/synopsys/synopsys_2021/primelib/T-2022.03-SP1/linux64/bin/primelib
* Host Name: engnx05a.utdallas.edu, User Name: , PID: 1386357
* Directory: /var/tmp/primelib.engnx05a.771092.1386357/INV/delay__IN__hl__OUT__lh__ACQ_1.sif_0

* Circuit simulation deck copyright (c) 1998-Present
* Synopsys Inc.  This file contains proprietary
* and confidential information.  All rights reserved.

* **************************
* Process Corner
* **************************

.include "/proj/cad/library/mosis/GF65_LPe/cmos10lpe_CDS_oa_dl064_11_20160415/models/YI-SM00030/Hspice/models/design.inc"


* **************************
* Temperature
* **************************

.temp 25

* **************************
* Options
* **************************

.option post=0
.option probe=1
.option numdgt=10 measdgt=10 autostop=1
.option ingold=1 lennam=16 nomod=1 brief=1 lislvl=1 statfl=1 warnlimit=5 pivot=0 symb=1 post_version=9601
.option measform=1
.option cell_char=yes
.option #"common,finesim: finesim_mode=spicehd finesim_method=gear finesim_speed=0 finesim_dvmax=0.1"
	
	"common,hspice: probe=1 runlvl=5 numdgt=7 measdgt=7 acct=1 nopage"
.option measout=1 putmeas=0

.save TYPE=ic LEVEL=NONE
* **************************
* Parameters
* **************************

.param __param_vdd = 1.2
.param __param_vss = 0
.param ct = 3.6e-09
.param default_slew = 1.5e-11
.param energy_change_abs_threshold = 1e-12
.param energy_change_threshold = 0.05
.param initial_delay = 1e-11
.param load_out = 0
.param load_vdd = 4e-14
.param load_vss = 4e-14
.param pp = 1.76e-09
.param slew_in = 5e-12
.param temperature_tag = 25
.param units = 3.6e-09
.param end_time = 5.3429e-09
.data arc_data
+ slew_in load_out temperature_tag __param_vdd __param_vss
+ 5e-12 0 25 1.2 0
+ 5e-12 3.2450834e-15 25 1.2 0
+ 5e-12 1.463604e-14 25 1.2 0
+ 5e-12 3.6388708e-14 25 1.2 0
+ 5e-12 7.0278299e-14 25 1.2 0
+ 5e-12 1.1782931e-13 25 1.2 0
+ 5e-12 1.804e-13 25 1.2 0
+ 1.0666304e-11 0 25 1.2 0
+ 1.0666304e-11 3.2450834e-15 25 1.2 0
+ 1.0666304e-11 1.463604e-14 25 1.2 0
+ 1.0666304e-11 3.6388708e-14 25 1.2 0
+ 1.0666304e-11 7.0278299e-14 25 1.2 0
+ 1.0666304e-11 1.1782931e-13 25 1.2 0
+ 1.0666304e-11 1.804e-13 25 1.2 0
+ 3.0556278e-11 0 25 1.2 0
+ 3.0556278e-11 3.2450834e-15 25 1.2 0
+ 3.0556278e-11 1.463604e-14 25 1.2 0
+ 3.0556278e-11 3.6388708e-14 25 1.2 0
+ 3.0556278e-11 7.0278299e-14 25 1.2 0
+ 3.0556278e-11 1.1782931e-13 25 1.2 0
+ 3.0556278e-11 1.804e-13 25 1.2 0
+ 6.8539041e-11 0 25 1.2 0
+ 6.8539041e-11 3.2450834e-15 25 1.2 0
+ 6.8539041e-11 1.463604e-14 25 1.2 0
+ 6.8539041e-11 3.6388708e-14 25 1.2 0
+ 6.8539041e-11 7.0278299e-14 25 1.2 0
+ 6.8539041e-11 1.1782931e-13 25 1.2 0
+ 6.8539041e-11 1.804e-13 25 1.2 0
+ 1.2771432e-10 0 25 1.2 0
+ 1.2771432e-10 3.2450834e-15 25 1.2 0
+ 1.2771432e-10 1.463604e-14 25 1.2 0
+ 1.2771432e-10 3.6388708e-14 25 1.2 0
+ 1.2771432e-10 7.0278299e-14 25 1.2 0
+ 1.2771432e-10 1.1782931e-13 25 1.2 0
+ 1.2771432e-10 1.804e-13 25 1.2 0
+ 2.1074409e-10 0 25 1.2 0
+ 2.1074409e-10 3.2450834e-15 25 1.2 0
+ 2.1074409e-10 1.463604e-14 25 1.2 0
+ 2.1074409e-10 3.6388708e-14 25 1.2 0
+ 2.1074409e-10 7.0278299e-14 25 1.2 0
+ 2.1074409e-10 1.1782931e-13 25 1.2 0
+ 2.1074409e-10 1.804e-13 25 1.2 0
+ 3.2e-10 0 25 1.2 0
+ 3.2e-10 3.2450834e-15 25 1.2 0
+ 3.2e-10 1.463604e-14 25 1.2 0
+ 3.2e-10 3.6388708e-14 25 1.2 0
+ 3.2e-10 7.0278299e-14 25 1.2 0
+ 3.2e-10 1.1782931e-13 25 1.2 0
+ 3.2e-10 1.804e-13 25 1.2 0
.enddata

* **************************
* Global nodes
* **************************


* **************************
* Network
* **************************

.inc '/home/010/e/eb/ebw220000/cad/EE4325_UART_Project/gf65/primelib_gf65/INV/netlists/INV.pex.sp'
xinv_inst vss out vdd in INV
vin_meter in in_harness dc 0
vout_meter out out_harness dc 0
vvdd_meter vdd vdd_harness dc 0
vvdd_stim vdd_harness 0 dc 1.2
cvdd_stim_cap vdd_harness 0 1e-15
vvss_meter vss vss_harness dc 0
vvss_stim vss_harness 0 dc 0
cvss_stim_cap vss_harness 0 1e-15
ccap_out out_harness ground_out 'load_out'
ccap_vdd vdd_harness ground_vdd 4e-14
ccap_vss vss_harness ground_vss 4e-14
vcap_ground_out ground_out 0 dc 0
vcap_ground_vdd ground_vdd 0 dc 0
vcap_ground_vss ground_vss 0 dc 0
vin_stim in_harness 0 pwl
+  0  1.2
+  1e-11  1.2
+  '1e-11 + slew_in * 1.25'  0
+  1.77e-09  0
* **************************
* Measurements
* **************************

.meas tran cin__in__hl_trig when v(in)=1.14 cross=1 td=1e-11
.meas tran cin__in__hl_targ when v(in)=0.06 cross=1 td=1e-11
.meas tran cin__in__hl_q integ i(vin_meter) from='cin__in__hl_trig' to='cin__in__hl_targ'
* Return abs((Cin__IN__hl_q)/(-1.08))
.meas tran tin__in__hl_trig when v(in)=1.08 fall=1 td=1e-11
.meas tran tin__in__hl_targ when v(in)=0.12 fall=1 td=1e-11
* Return ((Tin__IN__hl_targ)-(Tin__IN__hl_trig))*(1)
.meas tran tout__out__lh_trig when v(out)=0.12 rise=1 td=1e-11
.meas tran tout__out__lh_targ when v(out)=1.08 rise=1 td=1e-11
* Return ((Tout__OUT__lh_targ)-(Tout__OUT__lh_trig))*(1)
.meas tran cap_energy__out__lh_vp0 find v(out_harness) at=1e-11
.meas tran cap_energy__out__lh_vp1 find v(out_harness) at=1.77e-09
.meas tran cap_energy__out__lh_vn0 find v(ground_out) at=1e-11
.meas tran cap_energy__out__lh_vn1 find v(ground_out) at=1.77e-09
* Return (((0.5)*(cap_OUT.value))*(cap_energy__OUT__lh_vp1-cap_energy__OUT__lh_vn1-cap_energy__OUT__lh_vp0+cap_energy__OUT__lh_vn0))*(cap_energy__OUT__lh_vp1-cap_energy__OUT__lh_vn1-cap_energy__OUT__lh_vp0+cap_energy__OUT__lh_vn0)
.meas tran delay__in__hl__out__lh_trig when v(in)=0.6 fall=1 td=1e-11
.meas tran delay__in__hl__out__lh_targ when v(out)=0.6 rise=1 td=1e-11
* Return ((delay__IN__hl__OUT__lh_targ)-(delay__IN__hl__OUT__lh_trig))*(1)
.meas tran energy1__in__hl__out__lh__vdd_vdd_harness_v find v(vdd_harness) at=1.77e-09
.meas tran energy1__in__hl__out__lh__vdd_vdd_harness_q integ i(vvdd_stim) from=1e-11 to=1.77e-09
* Return (0)-((energy1__IN__hl__OUT__lh__VDD_VDD_harness_v)*(energy1__IN__hl__OUT__lh__VDD_VDD_harness_q))
.meas tran energy1__in__hl__out__lh__vss_vss_harness_v find v(vss_harness) at=1.77e-09
.meas tran energy1__in__hl__out__lh__vss_vss_harness_q integ i(vvss_stim) from=1e-11 to=1.77e-09
* Return (0)-((energy1__IN__hl__OUT__lh__VSS_VSS_harness_v)*(energy1__IN__hl__OUT__lh__VSS_VSS_harness_q))
.meas tran energy__in__hl__out__lh_vdd_harness_v find v(vdd_harness) at=1.77e-09
.meas tran energy__in__hl__out__lh_vdd_harness_q integ i(vvdd_stim) from=1e-11 to=1.77e-09
* Return (0)-((energy__IN__hl__OUT__lh_VDD_harness_v)*(energy__IN__hl__OUT__lh_VDD_harness_q))
.meas tran leakage_power1__vdd_vdd_harness_v avg v(vdd_harness) from=1.682e-09 to=1.77e-09
.meas tran leakage_power1__vdd_vdd_harness_i avg i(vvdd_stim) from=1.682e-09 to=1.77e-09
* Return (0)-((leakage_power1__VDD_VDD_harness_v)*(leakage_power1__VDD_VDD_harness_i))
.meas tran leakage_power1__vss_vss_harness_v avg v(vss_harness) from=1.682e-09 to=1.77e-09
.meas tran leakage_power1__vss_vss_harness_i avg i(vvss_stim) from=1.682e-09 to=1.77e-09
* Return (0)-((leakage_power1__VSS_VSS_harness_v)*(leakage_power1__VSS_VSS_harness_i))
.meas tran leakage_power2__vdd_vdd_harness_v avg v(vdd_harness) from=1.594e-09 to=1.682e-09
.meas tran leakage_power2__vdd_vdd_harness_i avg i(vvdd_stim) from=1.594e-09 to=1.682e-09
* Return (0)-((leakage_power2__VDD_VDD_harness_v)*(leakage_power2__VDD_VDD_harness_i))
.meas tran leakage_power2__vss_vss_harness_v avg v(vss_harness) from=1.594e-09 to=1.682e-09
.meas tran leakage_power2__vss_vss_harness_i avg i(vvss_stim) from=1.594e-09 to=1.682e-09
* Return (0)-((leakage_power2__VSS_VSS_harness_v)*(leakage_power2__VSS_VSS_harness_i))
* **************************
* Analysis
* **************************

* Analysis.tranPlus.
.tran 1e-12 5.3429e-09 sweep data=arc_data

.end
